US04031083
A solution of 1.85 g (0.01 mole) of 4-chloromethylphenyl acetic acid and 6.25 g (0.025 mole) of freshly prepared morpholinodithiocarbamate salt in 250 ml of methanol was stirred under nitrogen for 20 hours at room temperature. The solvent was evaporated, water was added and the solution was acidified to pH 1 using aqueous 10% hydrochloric acid then extracted with ethylacetate, dried over anhydrous magnesium sulfate and evaporated. The residue was recrystallized from ethylacetate to give p-morpholinodithiocarbamatemethyl)phenylacetic acid. M.P. 163° C.

reactant | 4-chloromethylphenyl acetic acid | 0.01 mole, 1.85 g | ClCC1=CC=C(C=C1)CC(=O)O | C9H9ClO2
reactant | morpholinodithiocarbamate | O1CCN(CC1)NC([S-])=S
solvent | methanol | 250 ml | CO | CH4O
product | phenylacetic acid | C1(=CC=CC=C1)CC(=O)O | C8H8O2
